US07973066B2
Synthesis of (S)-1-(4-Methylphenyl)dihydro-1H-pyrrolo[1,2-a]imidazole-2,5(3H,6H)-dione (NiK-16140)
In a 100 ml round bottomed flask fitted with a magnetical stirrer and a reflux condenser are placed 10 ml of dimethylformamide, 1.2 g of (R)-dihydro-1H-pyrrolo[1,2-a]imidazole-2,5(3H,6H)-dione, 0.456 g of copper iodide, 1.2 g of potassium carbonate and 4.0 g of 1-iodo-4-methyl-benzene. The well stirred reaction mixture is heated at reflux for 4 hours. After cooling, the solvent is removed under vacuum (50° C., 7 mbar) and the residue is treated with 70 ml of ethyl acetate and the insoluble is filtered off. The organic solvent is then washed with 20 ml of saturated NaCl solution, dried over Na2SO4, filtered and evaporated under vacuum. The residue is triturated with 30 ml of diethyl ether and then crystallized with 20 ml of isopropanol, obtaining 0.92 g (y=47%) of the title compound as an off-white powder.

reactant | (R)-dihydro-1H-pyrrolo[1,2-a]imidazole-2,5(3H,6H)-dione | 1.2 g | N1[C@@H]2N(CC1=O)C(CC2)=O | C6H8N2O2
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodo-4-methyl-benzene | 4.0 g | IC1=CC=C(C=C1)C | C7H7I
catalyst | copper iodide | 0.456 g | [Cu](I)I
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-1-(4-Methylphenyl)dihydro-1H-pyrrolo[1,2-a]imidazole-2,5(3H,6H)-dione | CC1=CC=C(C=C1)N1[C@@H]2N(CC1=O)C(CC2)=O | C13H14N2O2
